datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)=[C:11]([O-:12])[O:82]1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([CH:20]2[CH:21]=[C:22](C3=CC=CC=C3)[O:23][C:32]3=[C:31]2C=CC=C3)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].COC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:72]2)C=C1>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1=CC=C(C)S1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].COC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:72]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([F:20])[C:72](=[O:73])[O:83]1 10=20;20,21=21"
"CC[O:82]/[C:11](=[C:10](C)/[N:61]=[CH:62]/[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1)[O-:12].O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>CC[O:82][C:11]([C:10](C)([CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)/[N:61]=[CH:62]/[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([H:10])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[Si:11](C)([H:10])[CH2:62][Si:63](C)(C)C>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[Si+:11](C)[CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)C1.CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1>>CC1=CC=C([S:32]([N-:21][C:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14]3CCCC3)[CH:62]=[CH:61]2)=[O:52])(=[O:33])=[O:43])C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>C[N:21](C)[CH:20]([NH+:10]1CCC[C@H]1C(N=[N+]=[N-])(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10=20;20,21=21"
"C1=CC=C([S:61]([CH-:10][S:81](C2=CC=CC=C2)(=[O:82])=[O:92])(=[O:62])=[O:72])C=C1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63].[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>CO[C:62]([CH:61]1CCC[NH+:10]1[CH:20]1[CH:21]=[C:22]([O-:23])[O:43][C:31]1=[O:32])=[O:63] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]=[N-:12])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH:10]([C:11]#[N:12])[P+:61](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[O:62]/[C:11](=[CH:10]/[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12].CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C1=CC=C(C[NH2:10])C=C1>>Br[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10]CC2=CC=CC=C2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
C1=CC=C([C-:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C2=CC=CC=C2)([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
